US05959107
5-(4-Amino-5-ethylamino-2-chlorophenylsulfanyl)isoquinoline 210 mg (0.6 mmol) was dissolved in 6N hydrochloric acid 3 ml, acetic acid 0.1 ml was added, and the mixture was heated and refluxed overnight. The reaction mixture was neutralized with ammonia water and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and 5-chloro-1-ethyl-6-(5-isoquinolylsulfanyl)-2-methyl-1H-benzo[d]imidazole 130 mg (58.5%) was obtained.

reactant | 5-(4-Amino-5-ethylamino-2-chlorophenylsulfanyl)isoquinoline | 0.6 mmol, 210 mg | NC1=CC(=C(C=C1NCC)SC1=C2C=CN=CC2=CC=C1)Cl | C17H16ClN3S
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
reactant | ammonia water | O.N
solvent | hydrochloric acid | 6N, 3 ml | Cl | ClH
product | 5-chloro-1-ethyl-6-(5-isoquinolylsulfanyl)-2-methyl-1H-benzo[d]imidazole | 130 mg, 58.5% | ClC1=CC2=C(N(C(=N2)C)CC)C=C1SC1=C2C=CN=CC2=CC=C1 | C19H16ClN3S
